US07964732B2
Step CA3A: 6-tert-butylquinoline 1-oxide
A mixture of 6-tert-butylquinoline (400 mg, 2.16 mmol, Journal of the Indian Chemical Society, 1998, 823) and mCPBA (639 mg, 2.59 mmol) in chloroform (10 ml) was stirred for 2 hours at room temperature. The mixture was concentrated and the crude residue was applied to a silica gel (NH silica) column chromatography and eluted with dichloromethane/methanol (20:1) to furnish the title compound (433 mg, quant.) as pale orange oil. 1H NMR (300 MHz, CDCl3) δ 1.43 (9H, s) 7.26-7.30 (1H, m), 7.73 (1H, d, J=8.1 Hz), 7.78 (1H, s), 7.85 (1H, dd, J=1.5, 8.8 Hz), 8.49 (1H, d, J=5.9 Hz), 8.67 (1H, d, J=8.8 Hz). MS (ESI): m/z 202 (M+H)+.

reactant | 6-tert-butylquinoline | C(C)(C)(C)C=1C=C2C=CC=NC2=CC1 | C13H15N
reactant | mCPBA | 2.59 mmol, 639 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | 6-tert-butylquinoline 1-oxide | 433 mg | C(C)(C)(C)C=1C=C2C=CC=[N+](C2=CC1)[O-] | C13H15NO
